US05571810
A mixture of 5-acetyl-2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]thiophene (1.35 g), methoxyamine hydrochloride (0.45 g) and pyridine (0.44 ml) in dioxane (17 ml) was stirred at ambient temperature for 1 hour. The mixture was concentrated, and the residue was triturated with water, filtered, washed with water and dried. The crude crystals were recrystallized from ethyl acetate to give pure crystals of 2-(4-fluorophenyl)-5-[-1-(methoxyimino)ethyl]-3-[4-(methylsulfonyl)phenyl]thiophene (0.68 g).

reactant | 5-acetyl-2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]thiophene | 1.35 g | C(C)(=O)C1=CC(=C(S1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C19H15FO3S2
reactant | methoxyamine hydrochloride | 0.45 g | Cl.CON
reactant | pyridine | 0.44 ml | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 17 ml | O1CCOCC1 | C4H8O2
product | 2-(4-fluorophenyl)-5-[-1-(methoxyimino)ethyl]-3-[4-(methylsulfonyl)phenyl]thiophene | 0.68 g | FC1=CC=C(C=C1)C=1SC(=CC1C1=CC=C(C=C1)S(=O)(=O)C)C(C)=NOC | C20H18FNO3S2
